US06972340B2
3-(4-amino-1-naphthyl)propanoic acid
A solution of 3-(4-amino-naphthalen-1-yl)-acrylic acid methyl ester (2.5 g, 11.0 mmol) and 10% Pd—C (320 mg) in methanol (100 mL) under an atmosphere of H2 for 18 hours then filtered. To the filtrate was added 19M NaOH (3 mL), and the resulting mixture heated to reflux for 30 minutes. The mixture was concentrated under reduced pressure taken up in water (10 mL) and the pH adjust to 4 with 12M HCl. The mixture was extracted with ethyl acetate (3×20 mL), then the combined ethyl acetate layers were washed with brine (1×10 mL), dried (MgSO4), filtered, and concentrated under reduced pressure to provide the titled compound (2.4 g, 100%).

reactant | 3-(4-amino-naphthalen-1-yl)-acrylic acid methyl ester | 11.0 mmol, 2.5 g | COC(C=CC1=CC=C(C2=CC=CC=C12)N)=O | C14H13NO2
reactant | NaOH | 19M, 3 mL | [OH-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd—C | 320 mg | [Pd] | Pd
product | 3-(4-amino-1-naphthyl)propanoic acid | 2.4 g, 100% | NC1=CC=C(C2=CC=CC=C12)CCC(=O)O | C13H13NO2
